US07622504B2
About 20% of a solution of p-chlorobenzyl cyanide (0.75 g, 4.94 mmol) and diethyl oxalate (0.87 mL, 6.4 mmol) in tetrahydrofuran (one mL) was added to a stirred suspension of sodium hydride (167 mg, 6.95 mmol) in tetrahydrofuran (4 mL). The mixture was heated at 35-40° C. until H2 evolution began. The remaining mixture was added dropwise over about ten minutes. After H2 evolution ceased, part of the solvent was removed under reduced pressure. The residue was diluted with 10 mL of water, neutralized with dilute sulfuric acid and extracted twice with ethyl acetate. The extract was water washed, dried (MgSO4) and stripped to a light brown solid. This was triturated with hexane, filtered and dried to give 1.17 g, (94% yield) of ethyl 3-(4-chlorophenyl)-3-cyano-2-oxopropanoate.

reactant | p-chlorobenzyl cyanide | 4.94 mmol, 0.75 g | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | diethyl oxalate | 6.4 mmol, 0.87 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium hydride | 6.95 mmol, 167 mg | [H-].[Na+]
solvent | tetrahydrofuran | one mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | ethyl 3-(4-chlorophenyl)-3-cyano-2-oxopropanoate | 94% yield | ClC1=CC=C(C=C1)C(C(C(=O)OCC)=O)C#N | C12H10ClNO3
